US04366290
[Preparation of a Random Copolymer of t-Butylperoxycarbonate-Vinyl chloride by Suspension Polymerization]
Into an autoclave of 300 ml capacity made of stainless steel, there were charged 0.6 g of BPAC of 94% purity, 29.4 g of vinyl chloride (hereinafter referred to as VCL) of 100% purity and 0.01 g of diisopropylperoxydicarbonate of 99% purity and further 100 ml of 0.2% aqueous solution of polyvinyl alcohol (degree of saponification 89%). After the atmospheric environment in the autoclave was replaced with nitrogen, polymerization was carried out at 52° C. for 6 hours.

reactant | vinyl chloride | 29.4 g | C(=C)Cl | C2H3Cl
reactant | diisopropylperoxydicarbonate | 0.01 g | C(C)(C)OC(=O)OOC(=O)OC(C)C | C8H14O6
product | t-Butylperoxycarbonate Vinyl chloride | C(C)(C)(C)OC(=O)O[O-].C(=C)Cl | InChI=1S/C5H10O4.C2H3Cl/c1-5(2,3)8-4(6)9-7;1-2-3/h7H,1-3H3;2H,1H2/p-1
